2125-11-15 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - She was taken off BiPAP early in the evening with sats in the high
   90s, but became progressively more somnolent and repeat ABG showed PCO2
   of 73.
   - Also pressures dropped to the 70s/30s and patient was given gentle
   boluses with good effect.
   - Placed back on BiPAP and her pressures improved.  More alert this AM.
   Allergies:
   Enalapril
   Cough when enal
   Amlodipine
   Pedal edema;
   Last dose of Antibiotics:
   Vanc 1g in ED [**2125-11-14**]
   Cefipime in ED [**2125-11-14**]
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-11-14**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-15**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 82 (82 - 108) bpm
   BP: 92/41(52) {86/30(43) - 143/77(94)} mmHg
   RR: 17 (12 - 22) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    810 mL
                                                                    561 mL
   PO:
             TF:
   IVF:
                                                                    810 mL
                                                                    561 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    810 mL
                                                                    562 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 282 (236 - 282) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 15 cmH2O
   SpO2: 90%
   ABG: 7.24/73.[**Numeric Identifier 607**]/112/29/0
   Ve: 4.4 L/min
   PaO2 / FiO2: 373
   Physical Examination
   Gen: NAD, Alert, Oriented x1 and asking which hospital she
s in.
   CV: RRR, No M/R/G
   Pulm: Rhonchorous sound throughout, Crackles at bases,  No wheezes
   Abd: soft, mild distention, NT, BS +
   Extr: WWP, no edema, Pulses 2+ symmetric
   Labs / Radiology
   525 K/uL
   15.5 g/dL
   99 mg/dL
   1.4 mg/dL
   29 mEq/L
   4.9 mEq/L
   55 mg/dL
   101 mEq/L
   143 mEq/L
   45.5 %
   45.2 K/uL
        [image002.jpg]
                             [**2125-11-14**]  08:59 PM
                             [**2125-11-14**]  09:30 PM
                             [**2125-11-15**]  01:48 AM
                             [**2125-11-15**]  04:04 AM
   WBC
   45.2
   Hct
   45.5
   Plt
   525
   Cr
   1.5
   1.4
   TropT
   0.28
   0.27
   TCO2
   32
   33
   Glucose
   132
   99
   Other labs: CK / CKMB / Troponin-T:34/5/0.27, Lactic Acid:0.8 mmol/L,
   LDH:333 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
 .H/O PULMONARY EDEMA
 .H/O HYPOTHYROIDISM
 .H/O HYPERTENSION, BENIGN
 .H/O HIP FRACTURE (FEMORAL NECK FRACTURE, FEMUR)
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O DIVERTICULITIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PNEUMONIA, OTHER
   This is a 89 year-old female with a history of MDS, hip fracuture [**2-16**],
   living at rehab who presents with shortness of breath, hypoxia,
   leukocytosis and ? R pleura effusion/infiltrate.
   .
   Plan:
   # Hypoxia - Patient c/o SOB and sating only 90 on NRB so transitioned
   to BiPAP.  Differential includes pneumonia, influenza, hyperviscousity
   syndrome with polycythemia. Patient appears hemoconcentrated on labs.
   Given the fact that she is 1 of 10 sick patients at her Rehab center,
   influenza is a possibility.
   - IV fluids conservatively.
   - Repeat CXR
   - Wean BiPAP as tolerated to maintain sats >90%.
   - Continue Vanc, cefipime from ED as patient has been at nursing home
   since [**2-16**] and recent hospitalization in [**8-17**].
   - Send nasal aspirate for influenza A/B
   - Follow-up blood, urine and sputum cultures
   - ? need for CTA given acute hypoxia -> low likelyhood at this point.
   - Trend WBC count fever curve.
   .
   # Hypotension: Likely [**2-10**] to dehdration with metoprolol and morphine.
   Patient recieved 0.5mg  of morphine prior to foley attempt.  Patient
   given bolusses with appropriate elevation in BP.  Somnolence most
   likely due to hypercarbia and morphine
   - IVF conservatively as patient is DNR/DNI
   - Try to avoid morphine unless SOB and uncomfortable
   .
   # Hypercarbia/Acidemia:  Possible  etiologies include CO2 retention
   from undiagnosed COPD.  Patient with wheezing on exam last PM.
   - Albuterol/Ibratroprium nebs PRN
   - Would hold off on steriods given active infection
   - Consider steriods if continues to be hypercarbic
   .
   # ARF - Cr to 1.6 with baseline of 1.0.  Likely pre-renal.  DDx
   includes post-obstructive given resistance found when attempting to
   place foley hyperviscousity syndrome given elevated Hct. Patient also
   had amorphous crystals on UA from [**2123**], so may be crystaluria.
   - IVF as above
   - Unable to place foley yesterday [**2-10**] to resistance met,  Patient
   incontinent of large volume of urine
   - U/A with urine cx
   - Urine lytes, osms
   - check serum viscosity
   .
   # Elevated CE - Trop elevated to 0.28, but CK normal and is in the
   setting of renal insufficiency. ECG unchanged from prior.
   - repeat ECG in AM
   - Cycle CE
   - Give aspirin 325 now
   .
   # Myeloproliferative syndrome - with baseline leukocytosis and
   thrombocytosis.  Followed by Dr. [**Last Name (STitle) 230**].  Unclear when her last
   phlebotomy was.
   - Will contact Dr. [**Last Name (STitle) 230**].
   - ? need for therapeutic phlebotomy later
   .
   # FEN: NPO for now, replete lytes PRN
   .
   # Access: PIV
   .
   # PPx: Heparin SQ, bowel regimen, PPI
   .
   # Code: DNR/DNI
   .
   # Dispo: ICU until symptoms resolve
   .
   # Comm: Daughter and HCP, [**Name (NI) **] [**Name (NI) 6369**] (c) [**Telephone/Fax (1) 6370**], (h)
   [**Telephone/Fax (1) 6371**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-11-14**] 07:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU until symptoms improve or goals of care established

2125-11-15 10:04:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Noninvasive ventilation on
 off
 hypercarbic
 on
 now off
   Foley attempt unsuccessful
   Hypotension with morphine
   Allergies:
   Enalapril
   Cough when enal
   Amlodipine
   Pedal edema;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-11-14**] 09:00 PM
   Other medications:
   VS reviewed in Metavision and on rounds.
   On exam, she is comfortable on nasal cannula and scoop mask.  Breaths
   sounds are decreased at bases.  Neck veins are about 10 cm.  Heart is
   regular.  Abdomen is soft and nontender.  Marked scoliosis.  No edema.
   Labs / Radiology
   15.5 g/dL
   525 K/uL
   99 mg/dL
   1.4 mg/dL
   29 mEq/L
   4.9 mEq/L
   55 mg/dL
   101 mEq/L
   143 mEq/L
   45.5 %
   45.2 K/uL
        [image002.jpg]
                             [**2125-11-14**]  08:59 PM
                             [**2125-11-14**]  09:30 PM
                             [**2125-11-15**]  01:48 AM
                             [**2125-11-15**]  04:04 AM
   WBC
   45.2
   Hct
   45.5
   Plt
   525
   Cr
   1.5
   1.4
   TropT
   0.28
   0.27
   TCO2
   32
   33
   Glucose
   132
   99
   Other labs: PT / PTT / INR:16.7/32.2/1.5, CK / CKMB /
   Troponin-T:34/5/0.27, Lactic Acid:0.8 mmol/L, LDH:333 IU/L, Ca++:7.6
   mg/dL, Mg++:2.0 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   89-year-old woman with
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
          Hypercarbic
          Appears to be related to probable pneumonia
          There is potentially some component of pulmonary edema,
   given proBNP, although she does not appear to be total-volume body
   overloaded.
 HYPOTENSION (NOT SHOCK)
          Appears to be hypovolemic
          Has resolved
 PNEUMONIA, OTHER
          Influenza is in DDx (cases began being reported to CDC last
   week)
   o         Check nasal swab/wash for influenza
   o         Hold on empiric therapy for now
          HAP and CAP both in DDx
   o         Treat for usual CAP pathogens including atypicals
   o         Treat for HAP pathogens (MRSA, GNRs)
          Check sputum and blood culture
          Check urine Legionella
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
          Improving with volume resuscitation
          Unable to place Foley at present
   o         Will discuss with her PCP and hematologist
   [**Name Initial (PRE) **]         If ARF does not continue to improve
 renal ultrasound,
   urology consult
 MYELODYSPLASTIC SYNDROME
 LEUKOCYTOSIS
          Discuss with her hematologist
 ACUTE MI (troponin > 0.2)
          Unlikely to be unstable plaque
          EKG is reassuring.  Recheck today.  If any changes
 echo.
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-11-14**] 07:10 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   note sent to pt's PCP
   [**Name9 (PRE) 66**] status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2125-11-16 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Heme/Onc consulted
   - Expanded to Abx coverage
   - Episodes of de-saturation overnight, with subsequent improvemet
   following suctioning
   Allergies:
   Enalapril
   Cough when enal
   Amlodipine
   Pedal edema;
   Last dose of Antibiotics:
   Cefipime - [**2125-11-15**] 05:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-16**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.2
C (97.1
   HR: 99 (75 - 103) bpm
   BP: 134/58(74) {98/34(50) - 134/58(74)} mmHg
   RR: 19 (11 - 30) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  1,464 mL
                                                                    116 mL
   PO:
                                                                    440 mL
             TF:
   IVF:
                                                                  1,024 mL
                                                                    116 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,464 mL
                                                                    116 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 480 (480 - 480) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 0 cmH2O
   SpO2: 89%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   476 K/uL
   14.7 g/dL
   73 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.6 mEq/L
   55 mg/dL
   106 mEq/L
   145 mEq/L
   45.1 %
   29.5 K/uL
        [image002.jpg]
                             [**2125-11-14**]  08:59 PM
                             [**2125-11-14**]  09:30 PM
                             [**2125-11-15**]  01:48 AM
                             [**2125-11-15**]  04:04 AM
                             [**2125-11-15**]  03:18 PM
                             [**2125-11-16**]  03:37 AM
   WBC
   45.2
   35.9
   29.5
   Hct
   45.5
   48.9
   45.1
   Plt
   525
   520
   476
   Cr
   1.5
   1.4
   1.3
   1.1
   TropT
   0.28
   0.27
   TCO2
   32
   33
   Glucose
   132
   99
   89
   73
   Other labs: PT / PTT / INR:16.7/32.2/1.5, CK / CKMB /
   Troponin-T:34/5/0.27, Lactic Acid:0.8 mmol/L, LDH:333 IU/L, Ca++:7.9
   mg/dL, Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O PULMONARY EDEMA
 .H/O HYPOTHYROIDISM
 .H/O HYPERTENSION, BENIGN
 .H/O HIP FRACTURE (FEMORAL NECK FRACTURE, FEMUR)
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O DIVERTICULITIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PNEUMONIA, OTHER
 MYELODYSPLASTIC SYNDROME
 LEUKOCYTOSIS
   This is a 89 year-old female with a history of MDS, hip fracuture [**2-16**],
   living at rehab who presents with shortness of breath, hypoxia,
   leukocytosis and ? R pleura effusion/infiltrate.
   .
   Plan:
   # Hypoxia - Patient required BiPAP initially for hypoxia, then for
   hypercarbia.  Differential includes pneumonia, influenza, underlying
   COPD, hyperviscousity syndrome with polycythemia. HCT much improved
   with IV hydration.
   - IV fluids conservatively.
   - Wean O2 as tolerated to maintain sats 88-93%.
   - Continue Vanc, cefipime
   - start Levaquin for extra pseudomonas coverage
   - Send nasal aspirate for influenza A/B
   - Follow-up blood, urine and sputum cultures
   - Trend WBC count fever curve.
   - F/u Legionella antigen if can get urine sample (see below)
   .
   # Hypotension: Likely [**2-10**] to dehydration with metoprolol and morphine.
   Patient recieved 0.5mg  of morphine prior to foley attempt.  Patient
   given bolusses with appropriate elevation in BP.  Somnolence most
   likely due to hypercarbia and morphine
   - IVF conservatively as patient is DNR/DNI
   - Try to avoid morphine unless SOB and uncomfortable
   .
   # Hypercarbia/Acidemia:  Possible  etiologies include CO2 retention
   from undiagnosed COPD.  Patient with wheezing on exam last PM.
   - Albuterol/Ibratroprium nebs PRN
   - Would hold off on steroids given active infection
   - Consider steroids if continues to be hypercarbic
   .
   # ARF - Cr to 1.6 with baseline of 1.0.  Likely pre-renal.  DDx
   includes post-obstructive given resistance found when attempting to
   place foley hyperviscousity syndrome given elevated Hct. Patient also
   had amorphous crystals on UA from [**2123**], so may be crystaluria.
   - IVF as above
   - Unable to place foley yesterday [**2-10**] to resistance met,  Patient
   incontinent of large volume of urine
   - When able to get sample: U/A with urine cx Urine lytes, osms
   - check serum viscosity
   .
   # Elevated CE - Trop elevated to 0.28 flat, and CK within normal limits
   and is in the setting of renal insufficiency. ECG unchanged from prior.
   - repeat ECG in AM
   - Cycle CE
   - Give aspirin 325 now
   .
   # Myeloproliferative syndrome - with baseline leukocytosis and
   thrombocytosis.  Followed by Dr. [**Last Name (STitle) 230**].  Unclear when her last
   phlebotomy was.  Hct improved with hydration
   - Heme/onc consult.
   - ? need for therapeutic phlebotomy later
   .
   # FEN: regular diet, replete lytes PRN
   .
   # Access: PIV
   .
   # PPx: Heparin SQ, bowel regimen, PPI
   .
   # Code: DNR/DNI
   .
   # Dispo: ICU until symptoms resolve
   .
   # Comm: Daughter and HCP, [**Name (NI) **] [**Name (NI) 6369**] (c) [**Telephone/Fax (1) 6370**], (h)
   [**Telephone/Fax (1) 6371**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-11-15**] 07:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2125-11-16 12:26:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2125-11-15**] 09:18 PM
   Pt started on NIV in ED, then transported to [**Hospital Unit Name 44**]
   Thick secretions. ?aspirated with pills overnight.
   History obtained from [**Hospital 85**] Medical records, ICU team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Enalapril
   Cough when enal
   Amlodipine
   Pedal edema;
   Last dose of Antibiotics:
   Cefipime - [**2125-11-15**] 05:00 PM
   Vancomycin - [**2125-11-16**] 08:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   PPI, Synthroid, vanco, sqh, colace, metoprolol, cefepime, levoflox,
   vitamins, bowel regimen, tylenol, MSO4 prn, nebs
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-16**] 12:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.2
C (97.2
   HR: 91 (79 - 103) bpm
   BP: 131/60(77) {98/30(52) - 134/60(77)} mmHg
   RR: 17 (11 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  1,464 mL
                                                                    358 mL
   PO:
                                                                    440 mL
             TF:
   IVF:
                                                                  1,024 mL
                                                                    358 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                  unable to measure UOP mL
                                                  unable to measure UOP mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 92%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   14.7 g/dL
   476 K/uL
   73 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.6 mEq/L
   55 mg/dL
   106 mEq/L
   145 mEq/L
   45.1 %
   29.5 K/uL
        [image002.jpg]
                             [**2125-11-14**]  08:59 PM
                             [**2125-11-14**]  09:30 PM
                             [**2125-11-15**]  01:48 AM
                             [**2125-11-15**]  04:04 AM
                             [**2125-11-15**]  03:18 PM
                             [**2125-11-16**]  03:37 AM
   WBC
   45.2
   35.9
   29.5
   Hct
   45.5
   48.9
   45.1
   Plt
   525
   520
   476
   Cr
   1.5
   1.4
   1.3
   1.1
   TropT
   0.28
   0.27
   TCO2
   32
   33
   Glucose
   132
   99
   89
   73
   Other labs: PT / PTT / INR:16.7/32.2/1.5, CK / CKMB /
   Troponin-T:34/5/0.27, Lactic Acid:0.8 mmol/L, LDH:333 IU/L, Ca++:7.9
   mg/dL, Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   89-year-old woman with respiratory distress/respiratory failure
   requiring intermittent non-invasive ventilation.  Her problems include:
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) -- hypercarbic
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PNEUMONIA, OTHER
 MYELODYSPLASTIC SYNDROME
 LEUKOCYTOSIS - improving
 Inability to place Foley catheter
 ACUTE MI (troponin > 0.2, but stable
 Probable aspiration
   Pneumonia appears to the main actor here.  We will continue current
   broad-spectrum antibiotics while awaiting cultures.  We will also try
   to limit ins as possible.  Given overall request to not have invasive
   procedures, and inability to place Foley with usual techniques, will
   not pursue urologic eval at this time.  Acute renal failure is
   improving.  Acute MI is likely due to demand, not unstable plaque.
   Will hold off on POs for now except under close supervision
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-11-15**] 07:15 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2125-11-17 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Changed meds to IV
   -S+S- ok to start reg diet with asp precautions
   - Given 1mg Haldol IVx1 at 8pm for agitation
   -changed nebs to standing
   - trying to get a urine sample for ua and urine legionella
   -d/c'd droplet precautions as influenza was neg.
   Allergies:
   Enalapril
   Cough when enal
   Amlodipine
   Pedal edema;
   Last dose of Antibiotics:
   Vancomycin - [**2125-11-16**] 08:30 AM
   Cefipime - [**2125-11-16**] 03:46 PM
   Levofloxacin - [**2125-11-16**] 05:44 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2125-11-16**] 07:54 PM
   Pantoprazole (Protonix) - [**2125-11-16**] 08:00 PM
   Lorazepam (Ativan) - [**2125-11-16**] 08:15 PM
   Heparin Sodium (Prophylaxis) - [**2125-11-17**] 12:02 AM
   Metoprolol - [**2125-11-17**] 04:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-11-17**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.6
   HR: 110 (72 - 153) bpm
   BP: 124/63(79) {109/38(58) - 143/73(84)} mmHg
   RR: 20 (11 - 23) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
             Total In:
                                                                    916 mL
                                                                    209 mL
   PO:
                                                                    280 mL
             TF:
   IVF:
                                                                    636 mL
                                                                    209 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    916 mL
                                                                    209 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 92%
   ABG: ///30/
   Physical Examination
   Gen: NAD, AOx2
   CV: RRR, No M/R/G
   Pulm: Cough with secretions, distant BS, no wheezes, Rales at bases
   Abd: Soft, NT/ND, BS+
   Extr: trace edema, pulses 2+ symmetric
   Labs / Radiology
   491 K/uL
   16.2 g/dL
   88 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.2 mEq/L
   44 mg/dL
   102 mEq/L
   141 mEq/L
   49.9 %
   22.8 K/uL
        [image002.jpg]
                             [**2125-11-14**]  08:59 PM
                             [**2125-11-14**]  09:30 PM
                             [**2125-11-15**]  01:48 AM
                             [**2125-11-15**]  04:04 AM
                             [**2125-11-15**]  03:18 PM
                             [**2125-11-16**]  03:37 AM
                             [**2125-11-17**]  03:53 AM
   WBC
   45.2
   35.9
   29.5
   22.8
   Hct
   45.5
   48.9
   45.1
   49.9
   Plt
   525
   520
   476
   491
   Cr
   1.5
   1.4
   1.3
   1.1
   0.9
   TropT
   0.28
   0.27
   TCO2
   32
   33
   Glucose
   132
   99
   89
   73
   88
   Other labs: PT / PTT / INR:16.7/32.2/1.5, CK / CKMB /
   Troponin-T:34/5/0.27, Lactic Acid:0.8 mmol/L, LDH:333 IU/L, Ca++:8.4
   mg/dL, Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 .H/O PULMONARY EDEMA
 .H/O HYPOTHYROIDISM
 .H/O HYPERTENSION, BENIGN
 .H/O HIP FRACTURE (FEMORAL NECK FRACTURE, FEMUR)
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O DIVERTICULITIS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PNEUMONIA, OTHER
 MYELODYSPLASTIC SYNDROME
 LEUKOCYTOSIS
   This is a 89 year-old female with a history of MDS, hip fracuture [**2-16**],
   living at rehab who presents with shortness of breath, hypoxia,
   leukocytosis and ? R pleura effusion/infiltrate.
   .
   Plan:
   # Hypoxia - Patient required BiPAP initially for hypoxia, but hasn
   required it overnight.  Influenza negative. Patient with pneumonia now
   on vanc, levo, cefipime.  Sputum Cx with moderate growth or OP flora.
   - IV fluids conservatively.
   - Wean O2 as tolerated to maintain sats 88-93%.
   - Continue levofloxacin, Vanc, cefipime for 7 days
   - Trend WBC count fever curve.
   - F/u Legionella antigen and urine cx if can get urine sample (see
   below)
   .
   # ? Aspiration: Speech and swallow stated she can advance her diet and
   take regular with aspiration precautions.
   - Transition IV meds to PO if tolerating well
   .
   # Tachycardia: New A-fib this AM, patient had metoprolol d/c
d as she
   could not take PO yesterday.
   - Standing IV metoprolol.
   .
   # ARF - Cr to 1.6 with baseline of 1.0.  Likely pre-renal as improved
   with hydration.  Unable to get urine sample. Patient also had amorphous
   crystals on UA from [**2123**], so may be crystaluria.
   - IVF as above
   - Unable to place foley yesterday [**2-10**] to resistance met,  Patient
   incontinent of large volume of urine
   .
   # Hypotension: Normotensive overnight
   - IVF conservatively as patient is DNR/DNI
   .
   # Elevated CE - Trop elevated to 0.28 flat, and CK within normal limits
   and is in the setting of renal insufficiency. ECG unchanged from prior.
   - repeat ECG if chest pain
   .
   # Myeloproliferative syndrome - with baseline leukocytosis and
   thrombocytosis.  Followed by Dr. [**Last Name (STitle) 230**].  Unclear when her last
   phlebotomy was.  Hct improved with hydration
   - F/U Heme/onc recs.
   - No need for therapeutic phlebotomy now
   .
   # FEN: regular diet, replete lytes PRN
   .
   # Access: PIV
   .
   # PPx: Heparin SQ, bowel regimen, PPI
   .
   # Code: DNR/DNI
   .
   # Dispo: [**Month (only) 60**] call out later if stable
   .
   # Comm: Daughter and HCP, [**Name (NI) **] [**Name (NI) 6369**] (c) [**Telephone/Fax (1) 6370**], (h)
   [**Telephone/Fax (1) 6371**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-11-15**] 07:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU